US08859571B2
To a mixture of N-methyl-4-[(1-methylethyl)oxy]-3-nitrobenzenesulfonamide (1.6 g, 5.8 mmol) in ethanol (20 mL) under nitrogen, Pd/C (0.160 g) was added. The flask was then evacuated and recharged with hydrogen three times. The resulting mixture was allowed to stir under a hydrogen atmosphere overnight at room temperature. The mixture was then filtered and concentrated to afford 3-amino-N-methyl-4-[(1-methylethyl)oxy]benzenesulfonamide (1.1 g, 77%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.01-7.10 (m, 2H), 6.87-6.98 (m, 2H), 5.08 (br. s., 2H), 4.63 (dt, J=5.93, 11.98 Hz, 1H), 2.34-2.41 (m, 3H), 1.29 (d, J=6.02 Hz, 6H); MS (m/z) 244.7 (M+H+)

reactant | N-methyl-4-[(1-methylethyl)oxy]-3-nitrobenzenesulfonamide | 5.8 mmol, 1.6 g | CNS(=O)(=O)C1=CC(=C(C=C1)OC(C)C)[N+](=O)[O-] | C10H14N2O5S
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.160 g | [Pd] | Pd
product | 3-amino-N-methyl-4-[(1-methylethyl)oxy]benzenesulfonamide | 1.1 g, 77% | NC=1C=C(C=CC1OC(C)C)S(=O)(=O)NC | C10H16N2O3S
